US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[1-(2-methylpyridin-4-yl)piperidin-4-ylmethylamino]benzamide
To a solution of N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide (0.130 g, 0.38 mmol) in ethanol (10 mL) was added 4-chloro-2-picoline (0.1 mL). The reaction mixture was heated in a sealed tube for 24 hours. The reaction mixture was concentrated and the residue was purified by RPHPLC. The pure product containing fractions were combined and lyophilized to give 155 mg (66%) of a tan powder.

reactant | N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide | 0.38 mmol, 0.130 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCNCC1)=O | C18H21ClN4O
reactant | 4-chloro-2-picoline | 0.1 mL | ClC1=CC(=NC=C1)C | C6H6ClN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-(5-Chloropyridin-2-yl)-2-[1-(2-methylpyridin-4-yl)piperidin-4-ylmethylamino]benzamide | 155 mg, 66% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCN(CC1)C1=CC(=NC=C1)C)=O | C24H26ClN5O
